US08729102B2
C) tert-butyl {(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)phenoxy]-1-methylethyl}carbamate
Using 4-ethoxy-2-nitrobenzaldehyde (293 mg) and tert-butyl [(1S)-2-(4-aminophenoxy)-1-methylethyl]carbamate (399 mg), and in the same manner as in Example 25, step F, the title compound was obtained as a pale-brown solid (459 mg).

reactant | 4-ethoxy-2-nitrobenzaldehyde | 293 mg | C(C)OC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | tert-butyl [(1S)-2-(4-aminophenoxy)-1-methylethyl]carbamate | 399 mg | NC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C14H22N2O3
product | tert-butyl {(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)phenoxy]-1-methylethyl}carbamate | C(C)OC=1C=CC2=CN(N=C2C1)C1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C23H29N3O4
